US04255535
The monomer 2,4-hexadiyn-1,6-diol-bisethylurethane is synthesized in 95% yield by the reaction of 11.0 gm (0.10 mole) 2,4-hexadiyn-1,6-diol with 26.5 gm (0.37 mole) ethylisocyanate in the presence of 1,2-dimethoxyethane (50 ml), dibutyltin bis(2-ethylhexanoate (0.1 gm), and triethylamine (2 ml). The monomer is recrystallized as approximately 3 cm long needles by the slow cooling of a 10:90 acetone/petroleum either solution (75 ml) containing 0.2 sample, as described in Example 4. These crystals rapidly turn pink upon exposure to light. Polymerization proceeded quantitatively by 60Co γ-ray irradiation at a dose rate of 1 Mrad/hr and a total dosage of 60 Mrad. The resulting polymer fibers are copper-like in appearance and strongly dichroic, with dichroic axis in the fiber axis direction. The polymer fibers are monoclinic monocrystals in which the polymer chain axis, with repeat length 4.9 A is in a non-unique axis direction. The polymer fibers are annealed as described in Examples 4 and 5, in order to obtain reversible thermal-dimensional behavior. The annealed polymer fiber has a negative thermal expansion coefficient over the entire temperature range from -50° to 100° C. The average thermal expansion coefficient is -1.46×10-5 ° C.-1 between -50° and +100° C. and -1.31×10-5 ° C.-1 between -50° and +40° C.

reactant | 2,4-hexadiyn-1,6-diol | 0.10 mole, 11.0 gm | C(C#CC#CCO)O | C6H6O2
reactant | ethylisocyanate | 0.37 mole, 26.5 gm | C(C)N=C=O | C3H5NO
reactant | dibutyltin | C(CCC)[Sn]CCCC
reactant | 2-ethylhexanoate | 0.1 gm | C(C)C(C(=O)[O-])CCCC
catalyst | copper | [Cu] | Cu
solvent | triethylamine | 2 ml | C(C)N(CC)CC | C6H15N
solvent | 1,2-dimethoxyethane | 50 ml | COCCOC | C4H10O2
product | 2,4-hexadiyn-1,6-diol bisethylurethane | 95% yield | C(C#CC#CCO)O.C(C)N(C(=O)OCC)CC | InChI=1S/C7H15NO2.C6H6O2/c1-4-8(5-2)7(9)10-6-3;7-5-3-1-2-4-6-8/h4-6H2,1-3H3;7-8H,5-6H2
